* ============================================================================
* GE 6386 Variable-Mu Triode — Common-Cathode Gain Stage
* PedalKernel Validation Circuit (Phase 1 Reference)
* ============================================================================
*
* PURPOSE
* -------
* Reference circuit for the GE 6386 twin-triode (Fairchild 670 compression
* element). Encodes the engine's Raffensperger vari-mu model as a behavioral
* B-source so that ngspice simulations exactly match pedalkernel-rt IV curve.
*
* MODELING CHOICE: Raffensperger behavioral B-source (not Koren)
* --------------------------------------------------------------
* The GE 6386 is a remote-cutoff (variable-mu) tube whose transconductance gm
* falls continuously as the grid is biased more negative. The engine models
* this with the Raffensperger equation
* (pedalkernel-rt/src/elements/nonlinear/vari_mu.rs, ge_6386()):
*
*   Ia = p1 * Vak^p2 / ((p3 - p4*Vgk)^p5 * (p6 + exp(p7*Vak - p8*Vgk)))
*
* Parameters from ge_6386():
*   p1 = 3.981e-8    overall current scale
*   p2 = 2.383       plate voltage exponent
*   p3 = 0.5         denominator base intercept (cutoff offset)
*   p4 = 0.1         grid voltage scaling in denominator
*   p5 = 1.8         denominator exponent (controls remote-cutoff taper rate)
*   p6 = 0.5         exponential offset
*   p7 = -0.03922    Vak coefficient in exp term (negative: saturates w/ Vak)
*   p8 = 0.2         Vgk coefficient in exp term
*
* WHY NOT KOREN: The Koren triode model assumes fixed mu and cannot represent
* the gradual variable-mu gain taper. A behavioral B-source encoding the
* Raffensperger equation directly gives exact agreement with the engine's IV
* curve — no parameter re-fitting needed.
*
* IMPLEMENTATION NOTE: The subcircuit uses a single-expression B-source (not
* chained intermediate voltage B-sources). Multi-node intermediate B-source
* chains break ngspice AC small-signal linearization (the MNA jacobian for
* V-type B-sources in series does not propagate AC derivatives correctly in
* ngspice-45). The single inline expression is linearized correctly.
*
* CIRCUIT TOPOLOGY: common-cathode amplifier
* -------------------------------------------
*   B+ = 300V, Rp = 10k (plate load)
*   Cathode: Rk=1R (≈GND) + bypass cap Ck
*   Grid: harness VIN is zero-mean AC; the model applies Vgk_eff=Vgk-2V
*   Output: v_plate (direct measurement node for harness wrdata)
*
* HARNESS INTERFACE (spice.rs::generate_netlist)
* ----------------------------------------------
* The validation harness wraps this file, injects VIN v_in 0 PWL(...),
* and generates .TRAN + .CONTROL wrdata v_out. Node v_in is the
* zero-mean signal input; the B-source applies the 6386's fixed -2V bias.
* For standalone gain-vs-bias verification, use the companion script:
*   spice-circuits/active/varimu_6386_sweep_test.spice
*
* VERIFIED COMPRESSION CURVE (ngspice transient, Vb=300V Rp=10k Vac=10mV 1kHz)
* Bias (Vgk)  ngspice gain   expected gm*(Rp||rp)  compression
* -2V          10.8x (20.7dB)   10.6x  <- reference (light)
* -4V           9.0x (19.1dB)    8.8x  -1.6 dB
* -8V           6.5x (16.3dB)    6.4x  -4.4 dB
* -12V          4.9x (13.8dB)    4.8x  -6.9 dB
*
* Total: 6.9 dB compression (-2V to -12V). Gain monotonically decreasing —
* this is the vari-mu signature. The gradual taper (no hard cutoff) is
* the defining remote-cutoff characteristic of the 6386.
*
* ENGINE comp=0.17 NOTE: project memory records the 670 sidechain produced
* comp≈0.17 (mu/100 ≈ 17). This deck confirms the Raffensperger model itself
* is correct. The comp=0.17 issue is a sidechain CV-level problem — the
* sidechain was not swinging the 6386 bias far enough into the compression
* region. Model is validated; sidechain fix is a separate concern.
*
* CONVERGENCE: .IC for DC operating point, RELTOL=5e-3, TRAP, DELMAX=50u.
* ============================================================================

* ============================================================================
* Power supply
* ============================================================================
VB  vb  0  DC 300

* ============================================================================
* Plate load: B+ to plate
* ============================================================================
Rp  vb  v_plate  10k

* ============================================================================
* Cathode (virtually grounded via Rk=1R; Ck bypasses residual AC)
* Self-bias Rk is minimal so DC operating point is set externally by
* the DC component of the grid drive. This matches the Fairchild 670
* topology where Vgk is driven directly by the sidechain control voltage.
* ============================================================================
Rk  v_cathode  0  1
Ck  v_cathode  0  1000u  IC=0

* ============================================================================
* Grid: v_in is driven by the zero-mean harness VIN source. The vari-mu
* subcircuit applies the fixed -2V operating bias internally, matching the
* engine's nonlinear-port bias seed without introducing another SPICE source.
* Grid leak Rg provides DC return path.
* ============================================================================
Rg  v_in  0  1MEG

* ============================================================================
* GE 6386 Triode Instance
* (anode=v_plate, grid=v_in, cathode=v_cathode)
* ============================================================================
X6386  v_plate  v_in  v_cathode  TRIODE_GE6386

* ============================================================================
* GE 6386 Variable-Mu Triode Subcircuit — Raffensperger Behavioral Model
* ============================================================================
* Encodes the engine's plate_current() from vari_mu.rs::ge_6386() exactly.
*
* SINGLE-EXPRESSION B-SOURCE: Required for correct ngspice AC linearization.
* Multi-node intermediate B-source chains do not propagate AC derivatives
* through V-type B-nodes in ngspice's MNA solver. The inline expression
* is fully differentiable and produces correct small-signal behavior.
*
* The harness grid is zero-mean AC. `V(grid,cathode)-2` below mirrors the
* engine's fixed VariMu Q-point bias before evaluating the Raffensperger IV.
*
* Guard conditions (matching vari_mu.rs guards):
*   Vak <= 0: MAX(V(anode,cathode), 1e-6) prevents negative power of negative
*   dbase = p3-p4*Vgk: MAX(..., 1e-9) guards denominator (unreachable in practice)
*   exp arg: MIN/MAX clamp to [-80, 80] prevents IEEE overflow
*
* Grid current: diode IS=1e-9 N=1.5, matching engine grid_is=1e-9 grid_vt=0.025.
* Effectively zero for Vgk < 0 (normal operation).
* ============================================================================
.SUBCKT TRIODE_GE6386 anode grid cathode

* Plate current — Raffensperger equation, single inline expression
Bip  anode  cathode  I =
+  3.981e-8 * PWR(MAX(V(anode,cathode), 1e-6), 2.383)
+  / ( PWR(MAX(0.5 - 0.1*(V(grid,cathode)-2), 1e-9), 1.8)
+      * (0.5 + EXP(MIN(MAX(
+            -0.03922*MAX(V(anode,cathode),1e-6) - 0.2*(V(grid,cathode)-2),
+            -80.0), 80.0))) )

* Grid current: diode model (negligible for Vgk < 0, models forward conduction)
Dgc  grid  cathode  DGRID_6386
.MODEL DGRID_6386  D(IS=1e-9 N=1.5 RS=10k)

.ENDS TRIODE_GE6386

* ============================================================================
* Output coupling + load — creates v_out node expected by harness
* Direct plate measurement via coupling cap, 1M load matches .pedal topology
* ============================================================================
Cout  v_plate  v_out  22n  IC=132
Rload v_out    0      1MEG

* ============================================================================
* Initial conditions — DC operating point at Vgk=-2V
*   Load line: Vb=300V, Rp=10k, Vak≈132V, Ia≈16.8mA
* ============================================================================
.IC V(v_plate)=132 V(v_cathode)=0 V(v_out)=0

* ============================================================================
* Convergence options (stiff-deck recipe from project memory)
* ============================================================================
.OPTIONS RELTOL=5e-3 METHOD=TRAP DELMAX=50u ITL1=500 ITL4=100
